US07514470B2
A. 4-[(Cyclopropylmethyl)amino]-2-(trifluoromethyl)benzonitrile
A mixture of 4-fluoro-2-(trifluoromethyl)benzonitrile (9.45 g, 50 mmol), 1-cyclopropylmethanamine (5.0 g, 70 mmol), and potassium carbonate (10 g) was stirred for 12 hours in acetonitrile (50 mL) at 55° C. The mixture was cooled to 20° C., filtered, and the filter-cake was washed with acetonitrile (3×25 mL). The filtrate was concentrated under vacuum to obtain 11.9 g (99%) of the title compound as a white solid: 1H NMR (400 MHz, CDCl3) δ 7.53 (d, J=8.6 Hz, 1H), 6.83 (d, J=2.4 Hz, 1H), 6.65 (dd, J=8.6, 2.4 Hz, 1H), 4.62 (bs, 1H), 3.02 (d, J=7.1 Hz, 2H), 1.09 (m, 1H), 0.61 (m, 2H), 0.27 (m, 2H).

reactant | 4-fluoro-2-(trifluoromethyl)benzonitrile | 50 mmol, 9.45 g | FC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3F4N
reactant | 1-cyclopropylmethanamine | 70 mmol, 5.0 g | C1(CC1)CN | C4H9N
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 4-[(Cyclopropylmethyl)amino]-2-(trifluoromethyl)benzonitrile | 11.9 g, 99% | C1(CC1)CNC1=CC(=C(C#N)C=C1)C(F)(F)F | C12H11F3N2
